US07485283B2
To solution of 2-mercapto-chromen-4-one (1.52 g, 7.90 mmol) and 4-(4-hydroxymethyl-phenyl)-butan-1-ol (1.90 g, 9.90 mmol) dissolved in anhydrous THF (80 mL) was added solid PPh3 (3.11 g, 11.90 mmol) and DIAD (2.30 mL, 11.90 mmol). After completion of addition the reaction mixture continued to stir at room temperature. After 20 hours, the reaction mixture was diluted with water. The aqueous layer was separated and extracted with ethyl acetate (3×). All combined organic layers were dried over Na2SO4, filtered, and concentrated to yield an oil. The crude material was purified using silica gel chromatography (1:1 pentane: ethyl acetate) to yield 2-[4-(4-hydroxy-butyl)-benzylsulfanyl]-3-methyl-chromen-4-one (1.29 g, 3.64 mmol) in moderate yield (46%). 1H (CDCl3, 600 MHz): δ 8.18 (1H, dd, J=7.9, 1.3 Hz), 7.60 (1H, ddd, J=8.6, 7.2, 1.7 Hz), 7.31 (2H, t, J=8.5 Hz), 7.29 (2H, d, J=8.1 Hz), 7.12 (2H, d, J=8.1 Hz), 4.36 (2H, s), 3.62 (2H, m), 2.61 (2H, t, J=7.5 Hz), 2.00 (3H, s),1.67 (2H, m), 1.56 (2H, m); 13C (CDCl3, 150 MHz): δ 174.9, 161.3, 156.0, 141.5, 133.2, 132.3, 128.3, 128.2, 125.7, 124.5, 122.2, 117.2, 116.3, 62.3, 34.7, 31.8, 29.2, 26.9, 10.1.; HRMS calcd for C21H22O3S 355.1363:, found 355.1364

reactant | 2-mercapto-chromen-4-one | 7.90 mmol, 1.52 g | SC=1OC2=CC=CC=C2C(C1)=O | C9H6O2S
reactant | 4-(4-hydroxymethyl-phenyl)-butan-1-ol | 9.90 mmol, 1.90 g | OCC1=CC=C(C=C1)CCCCO | C11H16O2
reactant | PPh3 | 11.90 mmol, 3.11 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 11.90 mmol, 2.30 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(4-hydroxy-butyl)-benzylsulfanyl]-3-methyl-chromen-4-one | 3.64 mmol, 1.29 g | OCCCCC1=CC=C(CSC=2OC3=CC=CC=C3C(C2C)=O)C=C1 | C21H22O3S
